### PR TITLE
[Merged by Bors] - feat: exists_unique_iff_card_one

### PR DESCRIPTION
**Pull request by BoltonBailey**
Adds a theorem

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/Finite/Basic.lean [hunk 1]
```diff
@@ -276,6 +276,10 @@ theorem roots_X_pow_card_sub_X : roots (X ^ q - X : K[X]) = Finset.univ.val := b
 set_option linter.uppercaseLean3 false in
 #align finite_field.roots_X_pow_card_sub_X FiniteField.roots_X_pow_card_sub_X
 
+theorem Fintype.exists_unique_iff_card_one {α} [Fintype α] (p : α → Prop) [DecidablePred p] :
+    (∃! a : α, p a) ↔ (Finset.univ.filter p).card = 1 := by
+  sorry
```
Comment (mo271) [inline Mathlib/FieldTheory/Finite/Basic.lean:281]:
```suggestion
    rw [Finset.card_eq_one]
    refine' exists_congr fun x => _
    simp only [forall_true_left, Subset.antisymm_iff, subset_singleton_iff', singleton_subset_iff,
        true_and, and_comm]
    refine' and_congr _ _ <;> simp
```

**Comment by BoltonBailey** [comment]
Thanks!

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
